data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_594292_0,[C:1]([C:2]([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[N:8]=[O:9])([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:7][H:10]>>[C:1]([C:2]([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[O:7][H:10])([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[N:8]=[O:9],66.57837749997924
MR_699805_1,[C:1]([N:5]([C:2]([C:3]([O:8][H:10])([H:14])[H:15])([C:6]([C:4]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[H:13])[H:11])(=[O:9])[H:12]>>[C:1]1([O:9][H:10])([H:12])[N:5]([H:11])[C:2]([C:6]([C:4]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:13])[C:3]([H:14])([H:15])[O:8]1,50.51312249998418
MR_380230_1,[C:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[C:5](=[N:7]\[N:3]([H:8])[H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]1([N:4]([H:10])[H:11])[N:6]=[C:5]([H:12])[N:7]1[N:3]([H:8])[H:9])([H:13])([H:14])[H:15],31.33295750000628
MR_246295_0,[C:1]([O:3][O:4][C:2]([H:10])([H:11])[H:12])([O:5][H:7])([O:6][H:8])[H:9]>>[C@:1]([O:3][O:6][H:8])([O:4][C:2]([H:10])([H:11])[H:12])([O:5][H:7])[H:9],63.51868749999966
MR_366600_1,[C:1]([N:2](/[C:3]([N:5]([H:11])[H:12])=[N:7]/[O:6][H:8])[N:4]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([N:7](/[C:3](=[N:2]\[N:4]([H:9])[H:10])[N:5]([H:11])[H:12])[O:6][H:8])([H:13])([H:14])[H:15],68.76019500003508
MR_452984_0,[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([N:8]=[C:6]([H:19])[H:20])[H:12])([C:5]([C:4]([H:16])([H:17])[H:18])=[O:9])([O:7][H:10])[H:11]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])=[O:9])[H:12])([O:7][H:10])([N:8]=[C:6]([H:19])[H:20])[H:11],60.37805000001043
MR_40010_1,[C:1]([N:3]([O:6][H:8])/[N:7]=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:5]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:3][N:7][C@:4]([C:2]([H:14])([H:15])[H:16])([N:5]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13],33.18345500000689
MR_263027_2,[C:1]1([C:2]([H:12])([H:13])[H:14])([O:7][H:9])[C:3]([C:4](=[C:6]([H:17])[H:18])[H:11])([O:8][H:10])[C:5]1([H:15])[H:16]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4](=[C:6]([H:17])[H:18])[H:11])=[C:5]([H:15])[H:16])([O:7][H:9])[O:8][H:10],58.94672250002159
MR_88641_0,[C:1]([C:4]([N:2]([C:3]([N:5]([H:9])[H:10])=[O:7])[H:8])=[C:6]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1](/[C:4](=[N:2]\[H:8])[C:6]([C:3]([N:5]([H:9])[H:10])=[O:7])([H:14])[H:15])([H:11])([H:12])[H:13],61.65752249999031
MR_489657_0,[C:1]([C:2](/[N:8]=[C:6]([C:3](\[N:5]([H:12])[H:13])=[N:7]\[N:4]([H:10])[H:11])/[H:14])=[O:9])([H:15])([H:16])[H:17]>>[C:1]([C:2]([N:7]([C:3]1([N:5]([H:12])[H:13])[C:6]([H:14])=[N:8]1)[N:4]([H:10])[H:11])=[O:9])([H:15])([H:16])[H:17],47.55257750000396
MR_583688_1,[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[C:6]([C:3]([H:15])([H:16])[H:17])=[O:8])([N:7]([H:10])[H:11])[H:9]>>[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])[N:7]([H:10])[H:11])([C:6]([C:3]([H:15])([H:16])[H:17])=[O:8])[H:9],57.57563500002334
MR_702685_1,[C:1]([C:2]1([H:11])/[C:3](=[N:7]\[H:10])[N:6]1[H:9])(=[C:4]([H:12])[H:13])[O:5][H:8]>>[C:1]([C:2](/[C:3](=[N:7]\[H:10])[H:11])=[N:6]/[H:9])(=[C:4]([H:12])[H:13])[O:5][H:8],51.165722499977306
MR_207428_0,[C:1]([C:3]([N:4]([H:9])[H:10])[C:6]([C:2]([H:15])([H:16])[H:17])[H:14])([O:7][C:5](=[O:8])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C@:3]([N:4]([H:9])[H:10])([C@@:6]([C:2]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:11])[H:14])[O:7]1,49.62521000001445
MR_501391_1,[C@@:1]([C:3]([N:5]([H:12])[H:13])=[O:9])(/[C:4]([N:6]([H:14])[H:15])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:16])([O:8][H:10])[H:11]>>[C:1](=[C:4](/[N:6]([H:14])[H:15])[C@:7]([C:2]([H:17])([H:18])[H:19])([C:3]([N:5]([H:12])[H:13])=[O:9])[H:16])(\[O:8][H:10])[H:11],62.987195000021785
MR_51637_1,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[C:5]([H:13])[H:14])([C:4](=[O:6])[H:7])([H:8])[H:9]>>[C:1](=[C:3]([C:2]([H:10])([H:11])[H:12])[C:5]([C:4](=[O:6])[H:7])([H:13])[H:14])([H:8])[H:9],58.72145000005531
MR_152718_0,[C@@:1]([C:3]([H:16])([H:17])[H:18])(/[C:4]([N:5]([H:9])[H:10])=[N:7]/[C:2]([H:13])([H:14])[H:15])([N:6]([H:11])[H:12])[H:8]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[C:4](\[N:5]([H:9])[H:10])[N:7]([C:2]([H:13])([H:14])[H:15])[H:8])[N:6]([H:11])[H:12],61.48621499999479
MR_214092_0,[C:1]([C:6]([C:2]([H:17])([H:19])[H:20])=[C:4](/[C:5]([N:8]([H:12])[H:13])=[C:9](\[C:3]([H:21])([H:22])[H:23])[H:14])[N:7]([H:10])[H:11])([H:15])([H:16])[H:18]>>[C:1]([C:6]1([C:2]([H:17])([H:19])[H:20])[C:4]([N:7]([H:10])[H:11])=[C:5]([N:8]([H:12])[H:13])[C:9]1([C:3]([H:21])([H:22])[H:23])[H:14])([H:15])([H:16])[H:18],43.19584500001753
MR_456957_0,[C:1](\[N:2]([H:8])[H:9])(=[C:3](\[O:6][H:7])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11]>>[C:1]1([N:2]([H:8])[H:9])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:3]1([O:6][H:7])[H:10],38.80585500000805
MR_292617_0,[C:1]1([C:3]([C:2](=[C:5]([H:16])[H:17])[H:11])([H:12])[H:13])([O:8][H:10])[C:4]([H:14])([H:15])[C:6]([H:18])([H:19])[C:7]1=[O:9]>>[C:1]12([O:8][H:10])[C:3]([H:12])([H:13])[C:2]([H:11])([C:5]([H:16])([H:17])[C:7]1=[O:9])[C:6]([H:18])([H:19])[C:4]2([H:14])[H:15],69.55774750001893
